US07449466B2
Production Example 3 was repeated except that 1-(4-methoxyphenyl)piperazine dihydrochloride and isovaleryl chloride were replaced with 1-(2,5-difluoro-4-methoxyphenyl)-piperazine (228 mg) and 3-phenylpropionyl chloride (178 μL), respectively, to provide crude 4-(2,5-difluoro-4-methoxyphenyl)-1-(3-phenylpropanoyl)piperazine (348 mg).

reactant | 1-(4-methoxyphenyl)piperazine dihydrochloride | Cl.Cl.COC1=CC=C(C=C1)N1CCNCC1
reactant | isovaleryl chloride | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | 1-(2,5-difluoro-4-methoxyphenyl)-piperazine | 228 mg | FC1=C(C=C(C(=C1)OC)F)N1CCNCC1 | C11H14F2N2O
reactant | 3-phenylpropionyl chloride | 178 μL | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
product | 4-(2,5-difluoro-4-methoxyphenyl)-1-(3-phenylpropanoyl)piperazine | 348 mg | FC1=C(C=C(C(=C1)OC)F)N1CCN(CC1)C(CCC1=CC=CC=C1)=O | C20H22F2N2O2
